US05795900
To a solution in methanol (120 mL) of 4,4-bis(4-hydroxyphenyl)pentanoic acid (Aldrich Chemical Co., 12 g, 42 mmol) was added concentrated H2 SO4 (0.5 mL) and the mixture was heated to reflux for 3 hours. After cooling to room temperature the mixture was concentrated in vacuo and dissolved in ether (300 mL). The organic layer was washed with saturated aqueous NaHCO3 (2×150 mL) and brine, dried over MgSO4, filtered, and concentrated in vacuo to provide a thick oil which was crystallized from ether/hexane to give 4,4-bis(4-hydroxyphenyl)pentanoic acid methyl ester as an off-white color solid (11.8 g, 94%), mp 130° C.

reactant | 4,4-bis(4-hydroxyphenyl)pentanoic acid | 42 mmol, 12 g | OC1=CC=C(C=C1)C(CCC(=O)O)(C)C1=CC=C(C=C1)O | C17H18O4
reactant | methanol | 120 mL | CO | CH4O
product | 4,4-bis(4-hydroxyphenyl)pentanoic acid methyl ester | COC(CCC(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O | C18H20O4
